US04322370
A mixture of 4-(4-chlorophenyl)-7-hydroxy-2,2-dimethyl-1-tetralone (14.7 g), sodium hydride (80% oil dispersion, 1.65 g) and 2-dimethylaminoethyl chloride (5.8 g) was heated under reflux in toluene (150 ml) for 6 hr. The solvent was removed and the residue shaken with ether-dilute hydrochloric acid. The aqueous layer was separated, basified, extracted with ether and the extract dried (MgSO4). Evaporation gave 4-(4-chlorophenyl)-2,2-dimethyl-7-(2-dimethylaminoethoxy)-1-tetralone as a yellow oil (17 g, 91%) which was contaminated with ether. A portion was converted to the hydrochloride salt (64%), which crystallised as white prisms from ethanol-ether, m.p. 209°-211°.

reactant | 4-(4-chlorophenyl)-7-hydroxy-2,2-dimethyl-1-tetralone | 14.7 g | ClC1=CC=C(C=C1)C1CC(C(C2=CC(=CC=C12)O)=O)(C)C | C18H17ClO2
reactant | sodium hydride | 1.65 g | [H-].[Na+]
reactant | 2-dimethylaminoethyl chloride | 5.8 g | CN(CCCl)C | C4H10ClN
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-chlorophenyl)-2,2-dimethyl-7-(2-dimethylaminoethoxy)-1-tetralone | 17 g, 91% | ClC1=CC=C(C=C1)C1CC(C(C2=CC(=CC=C12)OCCN(C)C)=O)(C)C | C22H26ClNO2
